US05569653
4-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperazinyl]-2-hydroxy-2-methylbutane hydrochloride
To a stirred solution of ethyl 3-[4-(6-fluoro-1H-indazol-3-yl)-1-piperazinyl]propionate (5.0 g, 16 mmol) in THF (120 ml) under N2 was added, dropwise, methylmagnesium bromide (15.6 ml of a 3.0M solution in Et2O; 0.047 mol). The temperature was maintained below 30° C. during the addition by using a water bath. After complete addition, the reaction was stirred at ambient temperature for 5 hours The reaction was cooled in an ice bath and saturated NH4Cl (25 ml) was added. The mixture was extracted with EtOAc, and the EtOAc extract was washed with H2O, dried with Na2SO4 and concentrated to yield 5.0 g of a white solid. The product was recrystallized from EtOAc to yield 3.8 g of white crystalline flakes. The compound was dissolved in anhydrous Et2O (200 ml) and MeOH (20 ml) and the insolubles were filtered away. The filtrate was acidified with ethereal HCl to precipitate the salt. Additional anhydrous Et2O (200 ml) was added and the suspension was stirred 15 minutes. The solid was collected to yield 4.5 g of a white powder. Two recrystallizations from MeOH gave 2.2 g. The concentrated mother liquor from the MeOH recrystallizations (2.0 g) was recrystallized from DMF to afford 1.2 g. The two samples were combined and a final recrystallization from MeOH provided 3.0 g (57%) of a white powder m.p.=254°-256° C.

reactant | ethyl 3-[4-(6-fluoro-1H-indazol-3-yl)-1-piperazinyl]propionate | 16 mmol, 5.0 g | FC1=CC=C2C(=NNC2=C1)N1CCN(CC1)CCC(=O)OCC | C16H21FN4O2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | NH4Cl | 25 ml | [NH4+].[Cl-]
reactant | Et2O | CCOCC | C4H10O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 4-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperazinyl]-2-hydroxy-2-methylbutane hydrochloride | 5.0 g | Cl.FC1=CC=C2C(=NNC2=C1)N1CCN(CC1)CCC(C)(C)O | InChI=1S/C16H23FN4O.ClH/c1-16(2,22)5-6-20-7-9-21(10-8-20)15-13-4-3-12(17)11-14(13)18-19-15;/h3-4,11,22H,5-10H2,1-2H3,(H,18,19);1H
